US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-(4-phenyl-butyl)-phthalazine (Compound 6)
Operating substantially as described in example 5 starting from 3,5-dichloro-4-methyl-pyridine (0.23 g, 1.4 mmoles) in dry DMF (10 ml), 55% NaH in oil (0.061 g, 1.4 mmoles) and 1-chloro-6-methoxy-4-(4-phenyl-butyl)phthalazine (0.23 g, 0.7 mmole), prepared as described in example 20, in DMF (5 ml), 0.082 g of the title compound were obtained in form of amorphous hygroscopic solid (yield: 21%).

reactant | 3,5-dichloro-4-methyl-pyridine | 1.4 mmoles, 0.23 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 1-chloro-6-methoxy-4-(4-phenyl-butyl)phthalazine | 0.7 mmole, 0.23 g | ClC1=NN=C(C2=CC(=CC=C12)OC)CCCCC1=CC=CC=C1 | C19H19ClN2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | NaH | [H-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-(4-phenyl-butyl)-phthalazine | 0.082 g | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)CCCCC1=CC=CC=C1)Cl | C25H23Cl2N3O
